US04725536
2 microliter 20 micromolar dATP
3.75 microliter 6.6 mM mix of dCTP, dGTP and dTTP

reactant | dCTP | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)N=C(N)C=C1)O | C9H16N3O13P3
reactant | dGTP | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H](C[C@@H](O1)N1C=NC=2C(=O)NC(N)=NC12)O | C10H16N5O13P3
reactant | dTTP | OP(OP(O)(OP(O)(O)=O)=O)(OC[C@@H]1[C@@H](O)C[C@H](N2C(NC(C(C)=C2)=O)=O)O1)=O | C10H17N2O14P3
product | dATP | C1=NC(=C2C(=N1)N(C=N2)[C@H]3C[C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OP(=O)(O)O)O)N | C10H16N5O12P3
